US04291168
A stirred mixture of 2-phenyl-5-methoxy-6,7-dichloro-1-indanone (5.18 g., 16.8 mmol) and pyridine hydrochloride (23.3 g., 202 mmol) is heated at 190° for a period of 2 hrs. and then poured into 300 ml. of cold 2 N hydrochloric acid. Insolubles are collected, dried and crystallized from ethanol to afford 3.7 g. (75% yield) of 2-phenyl-5-hydroxy-6,7-dichloro-1-indanone, m.p. 252°-253.5°.

reactant | 2-phenyl-5-methoxy-6,7-dichloro-1-indanone | 16.8 mmol, 5.18 g | C1(=CC=CC=C1)C1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C16H12Cl2O2
reactant | pyridine hydrochloride | 202 mmol, 23.3 g | Cl.N1=CC=CC=C1
reactant | hydrochloric acid | 2 N | Cl | ClH
product | 2-phenyl-5-hydroxy-6,7-dichloro-1-indanone | 75% yield | C1(=CC=CC=C1)C1C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O | C15H10Cl2O2
